Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Seroquel / Erythromycin Base / 
Reglan / Elavil
 
Attending: ___.
 
Chief Complaint:
Inability to tolerate PO
 
Major Surgical or Invasive Procedure:
___: EGD with NJ tube placement 

 
History of Present Illness:
Ms. ___ is a ___ year old female with PMH notable for 
Gastroparesis (currently with G-Tube), eating disorder (likely 
etiology of gastroparesis), hx. of SIBO (previously treated with 
rifaximin), and bipolar disorder on lithium who presents ___ 
abdominal pain, nausea, diarrhea and poor PO intake.  
 Pt. had been doing well until ___ when she began to develop 
mild symptoms consistent with her gastroperesis. In ___, pt. 
reports having significant worsening of symptoms. She denies any 
clear triggers including stressors at home or changes in her 
diet. Over the last 2 months, pt. has lost 15 lbs. She has been 
having constant abdominal pain with periods of worsening 
typically at night. Dull pain is located diffusely with sharp 
LUQ pain. LUQ pain seems to be related to eating meals. She also 
has been having nausea, vomiting (typically 2/ day, but not 
every day), fluctuating diarrhea and constipation. She denies 
BRBPR or melena. Denies fevers, chills, night sweats, cough, 
dysuria, changes in urination. Pt. does experience substernal 
dull chest pain that occurrs with lying down, typically lasts 
hours. No pleuritic character she has noted. For constellation 
of symptoms including weight loss, she is admitted for GI 
work-up.  
 She currently has a G-tube that she reports is functioning 
normally. Has not noticed any erythema or changes in how G-Tube 
feels recently.  
 In the ED, initial vitals were: 98.5 69 117/68 18 100% ra  
 - Labs were significant for H/H 11.7/33.6; chem7 notable for K 
of 3.2, UCG negative, remainder of labs pending; UA small leuks, 
WBC 5, few bacteria, trace protein.  
 - The patient was given morphine 5mg IV x1 and benadryl 25mg IV 
x1  
 Vitals prior to transfer were: 98.2 73 98/64 16 100% RA  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats,. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies cough, shortness of 
breath. Denies palpitations. Denies arthralgias or myalgias.  

 
Past Medical History:
# Gastroparesis - first received G-J Tube ___, had been doing 
well and converted to G-tube ___  
 # Eating disorder NOS (thought to be the likely etiology of 
gastroparesis)  
 # Small Intestinal Bacterial Overgrowth - treated with 
intermittent rifaximin  
 # GERD  
 # Bipolar disorder (on lithium, previous episode of lithium 
toxicity requiring admission in the past)  

 
Social History:
___
Family History:
Pertinent for mother with breast cancer and a half sister with 
type 1 diabetes and a cousin with ___ disease.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================

Vitals: 97.9, 96/48, 52, 16, 93% on RA (bad pleth)  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, very mildly tender diffusely, non-distended, 
bowel sounds present, no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

DISCHARGE PHYSICAL EXAM:
========================

VS: 97.9 96/48 50-60s 16 93%RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
RESP: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
ABD: Soft, NT/ND bowel sounds present, no rebound tenderness or 
guarding, no organomegaly, G-tube in place without erythema   
GU: no foley  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: CNs2-12 intact, motor function grossly normal
SKIN: No excoriations or rash.

 
Pertinent Results:
PERTINENT LABS:
===============

___ 12:18AM BLOOD WBC-7.2 RBC-3.74* Hgb-11.7* Hct-33.6* 
MCV-90 MCH-31.2 MCHC-34.8 RDW-12.9 Plt ___
___ 12:18AM BLOOD Neuts-58.0 ___ Monos-4.7 Eos-3.6 
Baso-0.2
___ 06:56AM BLOOD ___ PTT-29.1 ___
___ 12:18AM BLOOD Glucose-77 UreaN-9 Creat-0.8 Na-139 
K-3.2* Cl-107 HCO3-20* AnGap-15
___ 06:56AM BLOOD Glucose-71 UreaN-8 Creat-0.8 Na-140 K-3.9 
Cl-113* HCO3-18* AnGap-13
___ 06:56AM BLOOD Calcium-8.4 Phos-3.5 Mg-1.9

PERTINENT IMAGING:
==================

EGD report ___:
Findings: 
Esophagus: Normal esophagus. 
Stomach:  
Lumen: An endoscopic (PEG) gastrostomy was seen in the body.  
Excavated Lesions A single erosion was noted in the stomach near 
the bumper.  
Duodenum: Normal duodenum. 
Other findings: A ___ NJ tube was placed under direct 
visualization into the jejunum. This was exchanged through the 
right nare. It was secured in placed with tape.  
Impression: PEG
Gastric erosion
A ___ NJ tube was placed under direct visualization into the 
jejunum. This was exchanged through the right nare. It was 
secured in placed with tape.
Otherwise normal EGD to third part of the duodenum 
Recommendations: Okay to use the NJ tube
Follow up with Dr. ___ as already scheduled
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with PMH notable for 
gastroparesis (currently with G-Tube), eating disorder (thought 
to be the etiology of her gastroparesis), hx. of SIBO 
(previously treated with rifaximin), and bipolar disorder on 
lithium who presents wtih abdominal pain, nausea, diarrhea and 
poor PO intake.  

ACTIVE ISSUES:
  
==============

# Gastroparesis: 
Pt. with worsening nausea, vomiting, abdominal pain, and weight 
loss over the past few weeks and inability to tolerate PO.  Was 
sent to the ED by either her PCP or her GI specialist because, 
as she reports, this would be the fastest way to get an NJ tube. 
 GI was consulted in ED and in the AM she was taken for EGD with 
MAC for NJ tube placement, which was uneventful.  She was 
advised to stay for initiation of J-tube feeds to ensure she was 
tolerating them; however, it was her strong preference to go 
home.  Given that she was familiar with tube feedings from a 
prior J tube and that she had close GI follow-up scheduled, she 
was discharged home.  

# Hypotension: 
On the morning of ___, the patient had an asymptomatic episode 
of relative hypotension to the ___ (her baseline is ___ 
systolic), but she was not tachycardic and was not symptomatic.  
This was likely in the setting of dehydration and receiving 
morphine in the ED.  She improved to the ___ systolic with 1L 
NS.  

CHRONIC ISSUES:
===============
  
# Eating Disorder: 
Weight loss seems to be ___ worsening gastroparesis. Recent 
weight loss approx 15 lbs. (baseline weight unclear). She has 
been seeing Dr. ___ weekly weights and her dietitian, 
___, monthly.  The patient did not feel that her eating 
disorder was contributing to her current presentation.  

# Bipolar Disorder: 
Continued lithium.
  
# GERD: 
Continued omeprazole.  

# ADHD: 
Continued Adderall.  

# Hypothyroidism: 
Continued levothyroxine.

  
TRANSITIONAL ISSUES:
====================
- Patient hypotensive to the ___ thought to be due to 
dehydration and morphine - morphine and other opiates should be 
used only with caution in the future
- Given that she had no tachycardic response with hypotension to 
the ___ systolic, the possibility of autonomic dysfunction as 
one possible etiology for her gastroparesis was raised.  If 
indicated, she could be considered for further autonomic workup 
as an outpatient.
- Patient had an NJ tube placed during this admission and will 
need to initiate tube feeds as an outpatient 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN Nausea 
2. dextroamphetamine-amphetamine 10 mg oral DAILY 
3. Lithium Carbonate 600 mg PO BID 
4. ClonazePAM 2 mg PO QHS 
5. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
6. metaxalone 800 mg oral DAILY:PRN Spasm 
7. Omeprazole 20 mg PO BID 
8. Sumatriptan Succinate Dose is Unknown  PO Frequency is 
Unknown 
9. TraZODone 200 mg PO QHS 
10. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1. ClonazePAM 2 mg PO QHS 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Lithium Carbonate 600 mg PO BID 
4. Omeprazole 20 mg PO BID 
5. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
6. TraZODone 200 mg PO QHS 
7. dextroamphetamine-amphetamine 10 mg ORAL DAILY 
8. metaxalone 800 mg oral DAILY:PRN Spasm 
9. Ondansetron 8 mg PO Q8H:PRN Nausea 
10. Sumatriptan Succinate 0 mg PO Frequency is Unknown 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Inability to tolerate G-tube feeds, 
gastroparesis

Secondary Diagnoses: small intestinal bacterial overgrowth, 
bipolar disorder, history of eating disorder, attention deficit 
hyperactivity disorder, gastroesophageal reflux disease, 
hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was our pleasure caring for you at ___ 
___.  You were admitted to the hospital with nausea 
and vomiting.  Because you have also been losing weight, your 
outpatient gastroenterologist felt that you would benefit from 
re-placing a nasojejunal tube (or "NJ tube") so that you can 
continue tube feeds and support your nutrition.  Our 
gastroenterologists placed this tube, and you can resume your 
normal tube feeds through this when you go home.

Your blood pressure was also low while you were here - we think 
this happened because you were dehydrated, so we gave you fluids 
through the IV.  You also received two medicines in the 
emergency room, morphine and benadryl, which can contribute to 
low blood pressure.  If you are feeling dizzy or not able to 
keep down liquids when you get home, you should call your 
primary care doctor.  You will need close follow-up to ensure 
that your nutritional status is improving.

Thank you for allowing us to participate in your care.
 
Followup Instructions:
___